US04738975
To 2,2,3,3,3-pentafluoropropanol (21 ml) were added in small portions, potassium tert-butoxide (23.6 g) and then 4-chloro-3-methoxy-2-methyl-pyridine (7.5 g). After being refluxed for 40 hours, the reaction mixture was cooled, to which ethyl acetate was added and the insoluble substance was filtered off. The filtrate was concentrated and purified by column chromatography, to give 3-methoxy-2-methyl-4-(2,2,3,3,3-pentafluoropropoxy)pyridine (1.7 g) as a light yellow oil while 4.1 g of the starting material was recovered at the same time.

reactant | 2,2,3,3,3-pentafluoropropanol | 21 ml | FC(CO)(C(F)(F)F)F | C3H3F5O
reactant | potassium tert-butoxide | 23.6 g | CC(C)([O-])C.[K+]
reactant | 4-chloro-3-methoxy-2-methyl-pyridine | 7.5 g | ClC1=C(C(=NC=C1)C)OC | C7H8ClNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methoxy-2-methyl-4-(2,2,3,3,3-pentafluoropropoxy)pyridine | 1.7 g | COC=1C(=NC=CC1OCC(C(F)(F)F)(F)F)C | C10H10F5NO2
